US08293768B2
Synthesis of ethyl 4-methyl-2-(2-oxo-3-propylimidazolidin-1-yl)thiazole-5-carboxylate
Following the procedure as described in Example 5, making variations to replace benzyl bromide with 1-iodopropane to react with ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate, the title compound was obtained in 60% yield: 1H NMR (300 MHz, CDCl3) δ 4.18 (q, J=7.2 Hz, 2H), 4.07-3.94 (m, 2H), 3.53-3.48 (m, 2H), 3.20 (t, J=7.2 Hz, 2H), 2.52 (s, 3H), 1.58-1.46 (m, 2H), 1.24 (t, J=7.2 Hz, 3H), 0.82 (t, J=7.2 Hz, 3H); MS (ES+) m/z 298.3 (M+1).

reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 1-iodopropane | ICCC | C3H7I
reactant | ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(NCC1)=O | C10H13N3O3S
product | ethyl 4-methyl-2-(2-oxo-3-propylimidazolidin-1-yl)thiazole-5-carboxylate | 60% yield | CC=1N=C(SC1C(=O)OCC)N1C(N(CC1)CCC)=O | C13H19N3O3S
